US07790709B2
Preparation of (E)-N-(4-Isopropyl-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide
According to the procedure of Example 1 (a), except substituting (4-isopropyl-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.223 g, 61%) was prepared as a light orange solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.66-10.64 (m, 1H), 8.36-8.33 (m, 1H), 8.07 (s, 1H), 7.55-7.48 (m, 1H), 7.33-7.11 (m, 5H), 4.77-4.56 (m, 2H), 3.09-2.81 (m, 6H), 2.56-2.49 (m 2H), 1.19-1.16 (m, 6H); MS (APCI) m/e 364 (M+H)+.

reactant | (4-isopropyl-benzyl)methylamine | C(C)(C)C1=CC=C(CCN)C=C1 | C11H17N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(4-Isopropyl-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide | 0.223 g, 61% | C(C)(C)C1=CC=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=C1 | C22H25N3O2
